US06365736B1
c) (±)-2-Methyl-3-oxo-6-hydroxymethyl-3,4-dihydro-2H-1,4-benzoxazine
10.3 g (46.6 mmol) of (±)-2-methyl-3-oxo-6-(methoxycarbonyl)-3,4-dihydro-2H-1,4-benzoxazine is dissolved in 164 ml of tetrahydrofuran. After 330 ml of toluene is added, the solution is cooled to −15° C. At this temperature, 144.2 ml of a 20% DIBAH solution in toluene is added in drops within 30 minutes. A color change from yellow to orange takes place. After 45 minutes of stirring at −15° C., 31 ml of isopropanol is added in drops at this temperature, and 68 ml of water is added in drops at 0° C. After 2½ hours of vigorous stirring at room temperature, the precipitate that is produced is suctioned off, washed with tetrahydrofuran, and the filtrate is spun in. The residue is chromatographed on silica gel (mobile solvent: methylene chloride/ethanol).

reactant | (±)-2-methyl-3-oxo-6-(methoxycarbonyl)-3,4-dihydro-2H-1,4-benzoxazine | 46.6 mmol, 10.3 g | CC1OC2=C(NC1=O)C=C(C=C2)C(=O)OC | C11H11NO4
reactant | DIBAH | CC(C)C[AlH]CC(C)C
reactant | isopropanol | 31 ml | C(C)(C)O | C3H8O
reactant | water | 68 ml | O | H2O
solvent | tetrahydrofuran | 164 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 330 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-2-Methyl-3-oxo-6-hydroxymethyl-3,4-dihydro-2H-1,4-benzoxazine | CC1OC2=C(NC1=O)C=C(C=C2)CO | C10H11NO3
